* File: D_FF.pex.netlist.pex
* Created: Sun Dec 16 22:45:02 2018
* Program "Calibre xRC"
* Version "v2012.2_36.25"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_D_FF%X0/6 1 2
r0 1 2 7.7
.ends

.subckt PM_D_FF%X1/6 1 2
r0 1 2 7.7
.ends

.subckt PM_D_FF%X2/6 1 2
r0 1 2 7.7
.ends

.subckt PM_D_FF%X3/6 1 2
r0 1 2 7.7
.ends

.subckt PM_D_FF%X4/6 1 2
r0 1 2 7.7
.ends

.subckt PM_D_FF%D 3 7 27 31 51 55 82 85 109
c9 109 0 0.0378f
c10 99 0 0.04914f
c11 95 0 0.06318f
c12 94 0 0.0703299f
c13 93 0 0.07776f
c14 92 0 0.07345f
c15 87 0 0.02322f
c16 86 0 0.0580345f
c17 85 0 0.294105f
c18 82 0 0.243795f
c19 62 0 0.0215f
c20 59 0 0.08496f
c21 55 0 0.0275183f
c22 51 0 0.0189183f
c23 38 0 0.0215f
c24 35 0 0.08496f
c25 31 0 0.0275183f
c26 27 0 0.0189183f
c27 14 0 0.0215f
c28 11 0 0.08496f
c29 7 0 0.0275183f
c30 3 0 0.0189183f
r31 94 95 0.163333
r32 93 99 13.16
r33 92 109 13.16
r34 92 94 0.0461131
r35 91 95 0.0461131
r36 86 99 0.0527007
r37 86 87 0.2
r38 85 87 0.0446983
r39 84 85 1.46667
r40 82 84 0.0446983
r41 82 109 0.84
r42 62 67 6.71385
r43 62 66 6.71385
r44 59 93 8.58
r45 58 62 9.6
r46 58 59 4.29
r47 55 67 40.425
r48 51 66 21.175
r49 38 43 6.71385
r50 38 42 6.71385
r51 35 92 8.58
r52 34 38 9.6
r53 34 35 4.29
r54 31 43 40.425
r55 27 42 21.175
r56 14 19 6.71385
r57 14 18 6.71385
r58 11 91 8.58
r59 10 14 9.6
r60 10 11 4.29
r61 7 19 40.425
r62 3 18 21.175
.ends

.subckt PM_D_FF%CLK 3 7 27 31 57 58 59 79
c13 79 0 0.135108f
c14 69 0 0.05292f
c15 65 0 0.07776f
c16 64 0 0.07776f
c17 59 0 0.01185f
c18 58 0 0.0871645f
c19 57 0 0.0163422f
c20 38 0 0.0215f
c21 35 0 0.08496f
c22 31 0 0.0275183f
c23 27 0 0.0189183f
c24 14 0 0.0215f
c25 11 0 0.08496f
c26 7 0 0.0275183f
c27 3 0 0.0189183f
r28 65 79 13.16
r29 64 69 13.16
r30 60 79 1.01333
r31 58 60 0.0446983
r32 58 59 0.24
r33 57 59 0.0446983
r34 56 69 0.0527007
r35 56 57 0.32
r36 38 43 6.71385
r37 38 42 6.71385
r38 35 65 8.58
r39 34 38 9.6
r40 34 35 4.29
r41 31 43 40.425
r42 27 42 21.175
r43 14 19 6.71385
r44 14 18 6.71385
r45 11 64 8.58
r46 10 14 9.6
r47 10 11 4.29
r48 7 19 40.425
r49 3 18 21.175
.ends

.subckt PM_D_FF%Q 3 7 25 30 47 48 50 66 67 68 88
c19 88 0 0.205991f
c20 78 0 0.05292f
c21 74 0 0.06804f
c22 73 0 0.07776f
c23 68 0 0.00600003f
c24 67 0 0.125977f
c25 66 0 0.0638022f
c26 44 0 0.07434f
c27 43 0 0.00775f
c28 36 0 0.0124f
c29 32 0 0.01395f
c30 30 0 0.0204581f
c31 27 0 0.00883314f
c32 26 0 0.04779f
c33 25 0 0.0885379f
c34 14 0 0.0215f
c35 11 0 0.08496f
c36 7 0 0.0275183f
c37 3 0 0.0189183f
r38 74 88 13.16
r39 73 78 13.16
r40 69 88 0.653333
r41 67 69 0.0446983
r42 67 68 0.586667
r43 66 68 0.0446983
r44 65 78 0.0527007
r45 65 66 1.09333
r46 44 74 8.58
r47 43 44 4.29
r48 40 50 3.37155
r49 39 40 5.2
r50 36 39 0.06
r51 35 47 3.78128
r52 35 48 3.78128
r53 32 35 5.4
r54 32 33 4.29
r55 30 43 0.0527007
r56 29 30 0.586667
r57 28 36 0.0158951
r58 27 29 0.0446983
r59 27 28 0.173333
r60 26 33 0.0461131
r61 25 44 0.0461131
r62 25 26 0.326667
r63 14 19 6.71385
r64 14 18 6.71385
r65 11 73 8.58
r66 10 14 9.6
r67 10 11 4.29
r68 7 19 40.425
r69 3 18 21.175
.ends

.subckt PM_D_FF%4 1 2 8 23 24 26 36 40 65 70
c14 81 0 0.05292f
c15 80 0 0.08537f
c16 71 0 0.06318f
c17 70 0 0.165805f
c18 69 0 0.06804f
c19 65 0 0.417855f
c20 63 0 0.04158f
c21 62 0 0.0812545f
c22 47 0 0.0215f
c23 44 0 0.08496f
c24 40 0 0.0275183f
c25 36 0 0.0189183f
c26 20 0 0.07434f
c27 19 0 0.00775f
c28 12 0 0.0124f
c29 8 0 0.01395f
c30 6 0 0.0204581f
c31 3 0 0.00883314f
c32 2 0 0.04779f
c33 1 0 0.0885379f
r34 80 81 13.16
r35 70 80 0.0461131
r36 70 71 0.455
r37 69 75 13.16
r38 68 71 0.0461131
r39 65 81 0.0527007
r40 64 65 1.85333
r41 63 75 0.0527007
r42 62 64 0.0446983
r43 62 63 0.2
r44 47 52 6.71385
r45 47 51 6.71385
r46 44 68 8.58
r47 43 47 9.6
r48 43 44 4.29
r49 40 52 40.425
r50 36 51 21.175
r51 20 69 8.58
r52 19 20 4.29
r53 16 26 3.37155
r54 15 16 5.2
r55 12 15 0.06
r56 11 23 3.78128
r57 11 24 3.78128
r58 8 11 5.4
r59 8 9 4.29
r60 6 19 0.0527007
r61 5 6 0.586667
r62 4 12 0.0158951
r63 3 5 0.0446983
r64 3 4 0.173333
r65 2 9 0.0461131
r66 1 20 0.0461131
r67 1 2 0.326667
.ends

.subckt PM_D_FF%VDD 25 31 33 40 60 64 70 72 79 103 109 111 138 142 148 150 177
+ 181 187 189 246 253
c13 278 0 0.0123969f
c14 277 0 0.0123969f
c15 276 0 0.00871875f
c16 275 0 0.00871875f
c17 274 0 0.0123969f
c18 272 0 0.00871875f
c19 253 0 0.14823f
c20 246 0 0.31347f
c21 238 0 0.00871875f
c22 237 0 0.00871875f
c23 236 0 0.0389391f
c24 235 0 0.0389391f
c25 234 0 0.00871875f
c26 233 0 0.0389391f
c27 194 0 0.354765f
c28 185 0 0.549505f
c29 184 0 0.0608328f
c30 181 0 0.00991876f
c31 179 0 0.006975f
c32 177 0 0.00991876f
c33 173 0 0.00464814f
c34 172 0 0.00248f
c35 165 0 0.0348704f
c36 164 0 0.00464814f
c37 163 0 0.00248f
c38 159 0 0.0156891f
c39 156 0 0.549511f
c40 155 0 0.503f
c41 145 0 0.0608328f
c42 142 0 0.00991876f
c43 140 0 0.006975f
c44 138 0 0.00991876f
c45 134 0 0.00464814f
c46 133 0 0.00248f
c47 126 0 0.0348704f
c48 125 0 0.00464814f
c49 124 0 0.00248f
c50 120 0 0.0156891f
c51 116 0 0.206545f
c52 107 0 0.225648f
c53 106 0 0.006975f
c54 103 0 0.00991876f
c55 101 0 0.0375829f
c56 99 0 0.00991876f
c57 95 0 0.00464814f
c58 94 0 0.00248f
c59 87 0 0.0348704f
c60 86 0 0.00464814f
c61 85 0 0.00248f
c62 77 0 0.0170003f
c63 68 0 0.361016f
c64 67 0 0.006975f
c65 64 0 0.00991876f
c66 62 0 0.006975f
c67 60 0 0.00991876f
c68 56 0 0.00464814f
c69 55 0 0.00248f
c70 48 0 0.0348704f
c71 47 0 0.00464814f
c72 46 0 0.00248f
c73 42 0 0.0156891f
c74 38 0 0.206545f
c75 29 0 0.225648f
c76 28 0 0.006975f
c77 25 0 0.00991876f
c78 23 0 0.0375829f
c79 21 0 0.00991876f
c80 17 0 0.00464814f
c81 16 0 0.00248f
c82 9 0 0.0348704f
c83 8 0 0.00464814f
c84 7 0 0.00248f
r85 276 278 0.128
r86 275 277 0.128
r87 272 274 0.128
r88 238 278 0.0489097
r89 237 277 0.0489097
r90 236 276 0.0489097
r91 235 275 0.0489097
r92 234 274 0.0489097
r93 233 272 0.0489097
r94 194 253 0.469
r95 185 194 0.858
r96 184 185 0.429
r97 182 189 3.83131
r98 181 182 5.4
r99 178 187 3.83131
r100 177 178 5.4
r101 173 184 0.0313149
r102 172 181 0.0451795
r103 172 173 0.133333
r104 166 179 0.0149881
r105 166 168 0.133333
r106 165 184 0.0149881
r107 165 168 0.0266667
r108 164 179 0.0313149
r109 163 177 0.0451795
r110 163 164 0.133333
r111 159 179 0.0149881
r112 159 238 0.072
r113 155 156 0.858
r114 145 156 0.429
r115 143 150 3.83131
r116 142 143 5.4
r117 139 148 3.83131
r118 138 139 5.4
r119 134 145 0.0313149
r120 133 142 0.0451795
r121 133 134 0.133333
r122 127 140 0.0149881
r123 127 129 0.133333
r124 126 145 0.0149881
r125 126 129 0.0266667
r126 125 140 0.0313149
r127 124 138 0.0451795
r128 124 125 0.133333
r129 120 140 0.0149881
r130 120 237 0.072
r131 116 253 0.371
r132 107 185 0.84
r133 107 116 0.858
r134 106 107 0.429
r135 104 111 3.83131
r136 103 104 5.4
r137 100 109 3.83131
r138 99 100 5.4
r139 97 106 0.0149881
r140 97 236 0.178667
r141 95 106 0.0313149
r142 94 103 0.0451795
r143 94 95 0.133333
r144 88 101 0.0149881
r145 88 90 0.133333
r146 87 106 0.0149881
r147 87 90 0.0266667
r148 86 101 0.0313149
r149 85 99 0.0451795
r150 85 86 0.133333
r151 79 168 1.15556
r152 79 90 1.15556
r153 77 155 0.84
r154 77 246 0.049
r155 68 156 0.84
r156 68 77 0.858
r157 67 68 0.429
r158 65 72 3.83131
r159 64 65 5.4
r160 61 70 3.83131
r161 60 61 5.4
r162 58 67 0.0149881
r163 58 235 0.178667
r164 56 67 0.0313149
r165 55 64 0.0451795
r166 55 56 0.133333
r167 49 62 0.0149881
r168 49 51 0.133333
r169 48 67 0.0149881
r170 48 51 0.0266667
r171 47 62 0.0313149
r172 46 60 0.0451795
r173 46 47 0.133333
r174 42 62 0.0149881
r175 42 234 0.072
r176 40 129 1.15556
r177 40 51 1.15556
r178 38 246 0.791
r179 29 68 0.84
r180 29 38 0.858
r181 28 29 0.429
r182 26 33 3.83131
r183 25 26 5.4
r184 22 31 3.83131
r185 21 22 5.4
r186 19 28 0.0149881
r187 19 233 0.178667
r188 17 28 0.0313149
r189 16 25 0.0451795
r190 16 17 0.133333
r191 12 40 1.15556
r192 10 23 0.0149881
r193 10 12 0.133333
r194 9 28 0.0149881
r195 9 12 0.0266667
r196 8 23 0.0313149
r197 7 21 0.0451795
r198 7 8 0.133333
.ends

.subckt PM_D_FF%GND 20 24 28 30 34 36 43 45 59 66 74 76 80 81 82 89 91 97 99 104
+ 105 112 170 177 186 190 212 216 217
c32 239 0 0.0123969f
c33 238 0 0.0123969f
c34 237 0 0.00654875f
c35 236 0 0.00654875f
c36 235 0 0.0123969f
c37 233 0 0.00654875f
c38 217 0 0.0127487f
c39 216 0 0.0963275f
c40 212 0 0.0963275f
c41 207 0 0.0127487f
c42 206 0 0.0963275f
c43 196 0 0.354765f
c44 190 0 0.08878f
c45 181 0 0.0925f
c46 179 0 0.00654875f
c47 178 0 0.00654875f
c48 177 0 0.00654875f
c49 105 0 0.549537f
c50 104 0 0.109076f
c51 99 0 0.00991876f
c52 97 0 0.00248f
c53 91 0 0.13024f
c54 82 0 0.549537f
c55 81 0 0.109076f
c56 76 0 0.00991876f
c57 74 0 0.00248f
c58 59 0 0.225659f
c59 53 0 0.00991876f
c60 51 0 0.00248f
c61 45 0 0.00857912f
c62 36 0 0.361027f
c63 30 0 0.00991876f
c64 28 0 0.00248f
c65 13 0 0.225664f
c66 7 0 0.00991876f
c67 5 0 0.00248f
r68 237 239 0.128
r69 236 238 0.128
r70 233 235 0.128
r71 216 237 0.0444648
r72 212 236 0.0444648
r73 206 233 0.0444648
r74 181 190 0.035
r75 181 196 0.0655885
r76 181 186 0.42
r77 179 239 0.0444648
r78 178 238 0.0444648
r79 177 235 0.0444648
r80 176 229 0.0346224
r81 175 229 0.0184615
r82 175 179 0.0892308
r83 174 225 0.0184615
r84 174 178 0.0892308
r85 173 225 0.0346224
r86 172 217 0.0346224
r87 170 213 0.0184615
r88 170 177 0.0892308
r89 169 213 0.0346224
r90 167 207 0.0346224
r91 106 229 0.172308
r92 104 106 0.0430769
r93 104 105 0.429
r94 103 176 0.133333
r95 100 112 3.37155
r96 99 100 5.2
r97 97 103 0.0425897
r98 97 99 0.12
r99 91 181 0.1325
r100 91 105 0.858
r101 83 225 0.172308
r102 82 91 0.858
r103 81 83 0.0430769
r104 81 82 0.429
r105 80 173 0.133333
r106 77 89 3.37155
r107 76 77 5.2
r108 74 80 0.0425897
r109 74 76 0.12
r110 60 217 0.172308
r111 59 105 0.84
r112 58 216 0.236923
r113 58 60 0.0430769
r114 58 59 0.429
r115 57 172 0.133333
r116 54 66 3.37155
r117 53 54 5.2
r118 51 57 0.0425897
r119 51 53 0.12
r120 45 181 0.1675
r121 45 190 0.0975
r122 45 59 0.858
r123 37 213 0.172308
r124 36 82 0.84
r125 36 45 0.858
r126 35 212 0.236923
r127 35 37 0.0430769
r128 35 36 0.429
r129 34 169 0.133333
r130 31 43 3.37155
r131 30 31 5.2
r132 28 34 0.0425897
r133 28 30 0.12
r134 24 83 1.2
r135 24 106 1.2
r136 24 60 1.2
r137 24 37 1.2
r138 22 196 0.371
r139 22 181 0.049
r140 14 207 0.172308
r141 14 24 1.2
r142 13 36 0.84
r143 13 22 0.858
r144 12 206 0.236923
r145 12 14 0.0430769
r146 12 13 0.429
r147 11 167 0.133333
r148 8 20 3.37155
r149 7 8 5.2
r150 5 11 0.0425897
r151 5 7 0.12
.ends

.subckt PM_D_FF%7 1 6 23 24 26 36 40 67 70
c11 70 0 0.0412123f
c12 67 0 0.31849f
c13 65 0 0.06804f
c14 64 0 0.05346f
c15 47 0 0.0215f
c16 44 0 0.08496f
c17 40 0 0.0275183f
c18 36 0 0.0189183f
c19 20 0 0.07434f
c20 19 0 0.00775f
c21 12 0 0.0124f
c22 8 0 0.01395f
c23 6 0 0.0204581f
c24 3 0 0.00883314f
c25 2 0 0.04779f
c26 1 0 0.0885379f
r27 69 70 0.268333
r28 67 69 0.039111
r29 65 70 0.0461131
r30 64 67 1.00333
r31 47 52 6.71385
r32 47 51 6.71385
r33 44 65 8.58
r34 43 47 9.6
r35 43 44 4.29
r36 40 52 40.425
r37 36 51 21.175
r38 20 64 8.58
r39 19 20 4.29
r40 16 26 3.37155
r41 15 16 5.2
r42 12 15 0.06
r43 11 23 3.78128
r44 11 24 3.78128
r45 8 11 5.4
r46 8 9 4.29
r47 6 19 0.0527007
r48 5 6 0.586667
r49 4 12 0.0158951
r50 3 5 0.0446983
r51 3 4 0.173333
r52 2 9 0.0461131
r53 1 20 0.0461131
r54 1 2 0.326667
.ends

.subckt PM_D_FF%8 1 12 23 24 26 36 40 67 70
c7 70 0 0.0412123f
c8 67 0 0.28415f
c9 65 0 0.06804f
c10 64 0 0.05346f
c11 47 0 0.0215f
c12 44 0 0.08496f
c13 40 0 0.0275183f
c14 36 0 0.0189183f
c15 20 0 0.07434f
c16 19 0 0.00775f
c17 12 0 0.0124f
c18 8 0 0.01395f
c19 6 0 0.0204581f
c20 3 0 0.00883314f
c21 2 0 0.04779f
c22 1 0 0.0885379f
r23 69 70 0.268333
r24 67 70 0.039111
r25 65 69 0.0461131
r26 64 67 0.723333
r27 47 52 6.71385
r28 47 51 6.71385
r29 44 65 8.58
r30 43 47 9.6
r31 43 44 4.29
r32 40 52 40.425
r33 36 51 21.175
r34 20 64 8.58
r35 19 20 4.29
r36 16 26 3.37155
r37 15 16 5.2
r38 12 15 0.06
r39 11 23 3.78128
r40 11 24 3.78128
r41 8 11 5.4
r42 8 9 4.29
r43 6 19 0.0527007
r44 5 6 0.586667
r45 4 12 0.0158951
r46 3 5 0.0446983
r47 3 4 0.173333
r48 2 9 0.0461131
r49 1 20 0.0461131
r50 1 2 0.326667
.ends

.subckt PM_D_FF%9 1 2 8 12 23 24 26 36 40 67 70
c14 70 0 0.0412123f
c15 67 0 0.31849f
c16 65 0 0.06804f
c17 64 0 0.05346f
c18 47 0 0.0215f
c19 44 0 0.08496f
c20 40 0 0.0275183f
c21 36 0 0.0189183f
c22 20 0 0.07434f
c23 19 0 0.00775f
c24 12 0 0.0124f
c25 8 0 0.01395f
c26 6 0 0.0204581f
c27 3 0 0.00883314f
c28 2 0 0.04779f
c29 1 0 0.0885379f
r30 69 70 0.268333
r31 67 69 0.039111
r32 65 70 0.0461131
r33 64 67 1.00333
r34 47 52 6.71385
r35 47 51 6.71385
r36 44 65 8.58
r37 43 47 9.6
r38 43 44 4.29
r39 40 52 40.425
r40 36 51 21.175
r41 20 64 8.58
r42 19 20 4.29
r43 16 26 3.37155
r44 15 16 5.2
r45 12 15 0.06
r46 11 23 3.78128
r47 11 24 3.78128
r48 8 11 5.4
r49 8 9 4.29
r50 6 19 0.0527007
r51 5 6 0.586667
r52 4 12 0.0158951
r53 3 5 0.0446983
r54 3 4 0.173333
r55 2 9 0.0461131
r56 1 20 0.0461131
r57 1 2 0.326667
.ends

