* File: INVERTER.pex.netlist
* Created: Tue Dec 11 19:55:24 2018
* Program "Calibre xRC"
* Version "v2012.2_36.25"
* 
.include "INVERTER.pex.netlist.pex"
.subckt INVERTER  GND VDD A OUT
* 
* OUT	OUT
* A	A
* VDD	VDD
* GND	GND
M0 N_OUT_M0_d N_A_M0_g N_GND_M0_s N_GND_M0_b n L=1.8e-07 W=2.7e-07 AD=4.698e-13
+ AS=4.698e-13
M1 N_OUT_M1_d N_A_M1_g N_VDD_M1_s N_VDD_M1_b p L=1.8e-07 W=5.4e-07 AD=4.941e-13
+ AS=4.941e-13
*
.include "INVERTER.pex.netlist.INVERTER.pxi"
*
.ends
*
*
