* File: INVERTER.pex.netlist.pex
* Created: Tue Dec 11 19:55:24 2018
* Program "Calibre xRC"
* Version "v2012.2_36.25"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_INVERTER%GND 1 27 30
c0 32 0 0.37908f
c1 21 0 0.414169f
c2 17 0 0.07068f
c3 15 0 0.046496f
c4 13 0 0.00464814f
c5 9 0 0.00991876f
c6 7 0 0.00248f
r7 30 32 0.049
r8 21 32 0.858
r9 20 21 0.429
r10 17 20 0.0442129
r11 15 17 0.0568451
r12 12 15 0.0335981
r13 12 13 0.133333
r14 10 27 3.596
r15 9 10 5.2
r16 7 13 0.0425897
r17 7 9 0.12
r18 1 17 1.2
.ends

.subckt PM_INVERTER%VDD 1 25 32
c0 34 0 0.37908f
c1 21 0 0.0596703f
c2 19 0 0.00991876f
c3 16 0 0.414159f
c4 15 0 0.0736204f
c5 8 0 0.00464814f
c6 7 0 0.00248f
r7 32 34 0.049
r8 20 25 3.83131
r9 19 20 5.4
r10 16 34 0.858
r11 15 16 0.429
r12 12 15 0.0373333
r13 10 21 0.0149881
r14 10 12 0.032
r15 8 21 0.0313149
r16 7 19 0.0451795
r17 7 8 0.133333
r18 1 12 1.15556
.ends

.subckt PM_INVERTER%A 3 7 25
c0 25 0 0.07776f
c1 14 0 0.0215f
c2 11 0 0.08496f
c3 7 0 0.0223583f
c4 3 0 0.0197783f
r5 14 20 6.71385
r6 14 19 6.71385
r7 11 25 8.58
r8 10 14 9.6
r9 10 11 4.29
r10 7 20 28.875
r11 3 19 26.95
.ends

.subckt PM_INVERTER%OUT 31 33 38
c0 38 0 0.06804f
c1 27 0 0.00557814f
c2 26 0 0.07434f
c3 25 0 0.00775f
c4 22 0 0.0093f
c5 18 0 0.0093f
c6 13 0 0.00464814f
c7 7 0 0.00867876f
c8 3 0 0.00867876f
r9 26 38 8.58
r10 25 28 0.0527007
r11 25 27 0.0527007
r12 25 26 4.29
r13 17 33 3.596
r14 13 22 0.0046983
r15 13 28 0.133333
r16 10 18 0.0046983
r17 10 27 0.16
r18 8 31 3.83131
r19 7 8 5.4
r20 5 22 0.173333
r21 5 7 0.1
r22 3 18 0.173333
r23 3 17 5.2
.ends

